US04485106
A mixture of 6 g of 6-chloro-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine, 150 ml of methanol and excess pyrrolidone was heated on a boiling-water steam bath for 10 minutes and cooled. The solid which formed was separated by filtration, washed with water and recrystallized from a mixture of dimethylsulfoxide and water to give 6-(1-pyrrolidinyl)-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine melting at about 272°-273° C.

reactant | 6-chloro-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine | 6 g | ClC1=NN2C(C=3CCCCC13)=NN=N2 | C8H8ClN5
reactant | pyrrolidone | N1C(CCC1)=O | C4H7NO
solvent | methanol | 150 ml | CO | CH4O
product | 6-(1-pyrrolidinyl)-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine | N1(CCCC1)C1=NN2C(C=3CCCCC13)=NN=N2 | C12H16N6
